US08168834B2
4-Methyl 1-(3-methoxy-2-propen-1-yl)benzene was similarly prepared as described in Examples I and II. First, 4-methyl benzaldehyde (140 g, commercially available from Mitsubishi Gas Chemical Company, Inc.) was used to obtain 3-(4-methyl-phenyl)-propionaldehyde (130 g) with a boiling point of 120° C. at a pressure of 21 mmHg. 3-(4-Methyl-phenyl)-propionaldehyde (225 g) was consequently used to provide 4-methyl 1-(3-methoxy-2-propen-1-yl)benzene (139 g) with a boiling point of 117° C. at a pressure of 35 mmHg

reactant | 4-Methyl 1-(3-methoxy-2-propen-1-yl)benzene | CC1=CC=C(C=C1)CC=COC | C11H14O
reactant | 4-methyl benzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
product | 3-(4-methyl-phenyl)-propionaldehyde | 130 g | CC1=CC=C(C=C1)CCC=O | C10H12O
